US03939159
1.7 g (0.016 mole) of 1-methyl-4-piperidone and 3 ml. of glacial acetic acid are added to a solution of 2.7 g (0.014 mole) of 1-(2-amino-4-chloro-phenyl) pyrrole, Example 13(b), in 50 ml. of absolute ethanol. The solution is refluxed for 36 hours and concentrated, and the residue dissolved in water. The aqueous solution is filtered, and the filtrate is basified. A solid precipitates, is filtered, and dried. The solid is dissolved in ether and ethereal-hydrogen chloride is added. The resulting precipitate is filtered, dried, and recrystallized from methanol to give 7-chloro-4,5-dihydro-1'-methylspiro-[pyrrolo (1,2-a)quinoxaline-4,4'-piperidine] hydrochloride, m.p. 297°-298° C.

reactant | 1-methyl-4-piperidone | 0.016 mole, 1.7 g | CN1CCC(CC1)=O | C6H11NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-(2-amino-4-chloro-phenyl) pyrrole | 0.014 mole, 2.7 g | NC1=C(C=CC(=C1)Cl)N1C=CC=C1 | C10H9ClN2
solvent | ethanol | C(C)O | C2H6O
product | 7-chloro-4,5-dihydro-1'-methylspiro-[pyrrolo (1,2-a)quinoxaline-4,4'-piperidine] hydrochloride | Cl.ClC=1C=C2NC3(CCN(CC3)C)C=3N(C2=CC1)C=CC3 | InChI=1S/C16H18ClN3.ClH/c1-19-9-6-16(7-10-19)15-3-2-8-20(15)14-5-4-12(17)11-13(14)18-16;/h2-5,8,11,18H,6-7,9-10H2,1H3;1H
